US08222416B2
To a solution of 4-[1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-benzoic acid methyl ester (330 mg, 0.68 mmol) in dry tetrahydrofuran (20 mL) at 0° C. was added an ethylmagnesium bromide solution in tetrahydrofuran (3.0 M, 1.14 mL, 3.4 mmol) dropwise. After stirring at 0° C. for 1 h, the reaction was quenched with a saturated aqueous ammonium chloride solution (20 mL). The mixture was extracted with ethyl acetate (2×50 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 25% ethyl acetate/hexanes) afforded 3-{4-[1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-phenyl}-pentan-3-ol (220 mg, 63%) as a white solid: LC/MS m/e calcd for C31H34N2O3S [M+H]+ 515.69, observed 515.2.

reactant | 4-[1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-benzoic acid methyl ester | 0.68 mmol, 330 mg | COC(C1=CC=C(C=C1)C(=CC1CCCC1)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=CC=C1)=O | C28H26N2O4S
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 3.4 mmol, 3.0 M, 1.14 mL | O1CCCC1 | C4H8O
product | 3-{4-[1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-phenyl}-pentan-3-ol | 220 mg, 63% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=CC2CCCC2)C2=CC=C(C=C2)C(CC)(CC)O | C31H34N2O3S
